US04316815
1-Phenyl-4-acetyl-pyrazole was prepared by acetylation of 1-phenyl-pyrazole with acetic anhydride according to the procedure described in Chemical Abstracts Vol. 63, 16332.

reactant | 1-phenyl-pyrazole | C1(=CC=CC=C1)N1N=CC=C1 | C9H8N2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Phenyl-4-acetyl-pyrazole | C1(=CC=CC=C1)N1N=CC(=C1)C(C)=O | C11H10N2O
